US06797718B2
2-chloro-5,6-dimethyl-3-nitro-N-(2-phenoxyethyl)pyridin-4-amine
2,4-Dichloro-5,6-dimethyl-3-nitropyridine (1.00 g), anhydrous N,N-dimethylformamide (5 ml), triethylamine (0.63 ml), and 2-phenoxyethylamine (0.59 ml) were combined and the resulting mixture was heated to 55° C. for 24 hours. Thin layer chromatography (TLC) monitoring of the reaction indicated that it was complete. The solvent was removed under reduced pressure and the remaining oil was dissolved in dichloromethane (DCM) and washed once with water. Following 2 additional extractions with DCM, the organic layers were combined, dried with magnesium sulfate, and the solvent was removed under reduced pressure. The product was passed through a column using 20/80 ethyl acetate/hexane as the eluant. NMR analysis of the resulting yellow solid indicated sufficient purity for use in the next step.

reactant | 2,4-Dichloro-5,6-dimethyl-3-nitropyridine | 1.00 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 2-phenoxyethylamine | 0.59 ml | O(C1=CC=CC=C1)CCN | C8H11NO
solvent | triethylamine | 0.63 ml | C(C)N(CC)CC | C6H15N
product | 2-chloro-5,6-dimethyl-3-nitro-N-(2-phenoxyethyl)pyridin-4-amine | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCOC1=CC=CC=C1)C)C | C15H16ClN3O3
